Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Presented to ___ with acute left hemiparesis, transferred 
to ___ s/p tPA 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ is an ___ year old right handed woman with history 
of hyperlipidemia, who presents s/p tPA for acute onset left 
hemiparesis.

She reports that she was in her usual state of health on ___ 
AM. She was paying her own bills at her dining table when she 
acutely noticed that she could not move her left side. She had 
no headache or numbness. She looked in the mirror and saw a left 
facial droop as well. She was able to call her son, and reported
that her voice sounded very slurred, which was corroborated by 
her son, ___. She called ___, and was transported to ___, 
where Code Stroke was activated, and she received tPA per 
protocol with no hemorrhage on initial CT at ___, prior to 
transfer. Of note, she was initially hypertensive to >200s, and 
needed nicardipine gtt as well as a dose of IV labetalol during 
EMS transport to ___. She also underwent a CTA at ___ 
which showed no large vessel occlusion.
 
Past Medical History:
Hyperlipidemia 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
==============================
Vitals:
P 74  BP 145/66  RR 19  95% RA 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty, though did call a glove "hand". Mild
dysarthria. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: Slower activation of left face
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. Left hand cupping
without drift. No adventitious movements, such as tremor or
asterixis noted.
  [___]
L    5    5    5    5    5    5   3    4-   3   3    4+   4
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was upgoing on left, down on right.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: deferred

DISCHARGE PHYSICAL EXAMINATION:
===============================

General: Awake, cooperative, NAD.
Neuro:
MSE: Grossly alert and oriented. Able to converse fluently and
without difficulty. Normal prosody. There were no paraphasic
errors. No dysarthria. No evidence of apraxia or neglect.
CN: PERRL 2mm->1mm. EOMI with several beats of nystagmus on left
gaze. Normal saccades. Symmetric face movement. Tongue protrudes
midline.  
Motor: Normal bulk throughout. No pronator drift. No tremor
noted.
  [___]
L    4+   5    4    4    5                           
R    5    5    5    5    5    
Sensory: Deferred.
Reflexes: Deferred.
Coordination: No dysmetria on FNF. Finger tapping slower on 
left.

Gait: deferred

 
Pertinent Results:
___ 06:33AM BLOOD WBC-6.1 RBC-3.96 Hgb-11.8 Hct-37.5 MCV-95 
MCH-29.8 MCHC-31.5* RDW-12.9 RDWSD-45.0 Plt ___
___ 04:25PM BLOOD WBC-9.9 RBC-4.40 Hgb-13.1 Hct-40.9 MCV-93 
MCH-29.8 MCHC-32.0 RDW-12.9 RDWSD-43.9 Plt ___
___ 04:25PM BLOOD Neuts-82.2* Lymphs-10.4* Monos-5.3 
Eos-1.1 Baso-0.2 Im ___ AbsNeut-8.15* AbsLymp-1.03* 
AbsMono-0.53 AbsEos-0.11 AbsBaso-0.02
___ 06:33AM BLOOD Plt ___
___ 06:33AM BLOOD ___ PTT-29.5 ___
___ 07:20PM BLOOD ___ PTT-30.9 ___
___ 04:25PM BLOOD Plt ___
___ 04:25PM BLOOD ___ PTT-29.7 ___
___ 06:33AM BLOOD Glucose-144* UreaN-16 Creat-1.1 Na-142 
K-4.3 Cl-107 HCO3-24 AnGap-11
___ 07:20PM BLOOD Glucose-138* UreaN-18 Creat-1.0 Na-139 
K-4.1 Cl-105 HCO3-23 AnGap-11
___ 07:20PM BLOOD ALT-15 AST-18 LD(LDH)-216 CK(CPK)-103 
AlkPhos-73 TotBili-0.3
___ 07:20PM BLOOD CK-MB-3 cTropnT-<0.01
___ 06:33AM BLOOD Calcium-8.5 Phos-3.4 Mg-2.0
___ 07:20PM BLOOD Albumin-3.9 Cholest-282*
___ 07:20PM BLOOD %HbA1c-6.2* eAG-131*
___ 07:20PM BLOOD Triglyc-167* HDL-66 CHOL/HD-4.3 
LDLcalc-183*
___ 07:20PM BLOOD TSH-2.2
___ 04:25PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 04:39PM BLOOD Glucose-113* Creat-1.1 Na-141 K-3.9 
Cl-106 calHCO3-___ is an ___ year old female with hyperlipidemia, who 
presented from ___ with acute left hemiparesis s/p tPA. 
She was noted to be hypertensive to >200s on presentation, 
requiring nicardipine gtt and a dose of IV labetalol during EMS 
transport to ___. 

Work up:
CTA head and neck: bilateral calcification with no significant 
stenosis
MRI showed infarctions in the posterior body of the right 
caudate and in the posterior limb of the right internal capsule.
No a-fib on telemetry. 
Lab: LDL 182, HA1c 6.2.
Etiology: Lacunar stroke- small vessel disease.
Patient was started on Aspirin 81 mg, and Atorvastatin 80 mg 
daily.
Blood pressure was noted to be elevated up to 170s during 
admission and Lisinopril 5 mg daily was started.
Exam notable for mild left sided weakness, significantly 
improved since admission. 
Patient was discharged to rehab and she will have outpatient TTE 
to complete work up.

 
Medications on Admission:
1. Atorvastatin 10 mg PO EVERY OTHER DAY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
R LACUNAR STROKE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Ms. ___, 
 
You were hospitalized due to symptoms resulting from an ACUTE 
ISCHEMIC STROKE, a condition where a blood vessel providing 
oxygen and nutrients to the brain is blocked by a clot. The 
brain is the part of your body that controls and directs all the 
other parts of your body, so damage to the brain from being 
deprived of its blood supply can result in a variety of 
symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

1. Hypertension (high blood pressure) 
2. Hyperlipidemia (high cholesterol and fat in the blood)
3. Prediabetes (high blood sugar)
 
We are changing your medications as follows:  

1. Atorvastatin 80mg daily (for hyperlipidemia)
2. Lisinopril 5mg daily (for hypertension)
3. Aspirin 81mg daily (blood thinner)
 
Please take your other medications as prescribed. 
  
Please follow up with Neurology and your primary care physician 
as listed below. 
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___